US04315009
Reaction of m-nitrophenacyl bromide with sodium acetate in ethanol gave m-nitrophenacyl alcohol. This was treated with dicyandiimide and HCl in aqueous methanol to give 2-guanidino4-(3-nitrophenyl)oxazole hydrochloride, m.p. 250°-251° C. The nitro residue was reduced with iron powder in acetic acid containing 10% v/v water to give 2-guanidino-4-(3-aminophenyl)oxazole.

reactant | m-nitrophenacyl bromide | [N+](=O)([O-])C=1C=C(C(CBr)=O)C=CC1 | C8H6BrNO3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | m-nitrophenacyl alcohol | [N+](=O)([O-])C=1C=C(C(CO)=O)C=CC1 | C8H7NO4
